US06627651B1
Into a solution of 4-hydroxymethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine (320 mg) in dichloromethane (10 ml) were added triphenylphosphine (378 mg) and carbon tetrabromide (597 mg), and the resulting mixture was stirred at room temperature for 2 hours. Thereto were additionally added triphenylphosphine (157 mg) and carbon tetrabromide (249 mg), and the resulting mixture was stirred further for 30 minutes, was then mixed with an aqueous solution of sodium bicarbonate under ice cooling and was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, was dried (anhydrous magnesium sulfate) and was concentrated under reduced pressure. The residue was subjected to purification using silica gel column chromatography (ethyl acetate/hexane=1/9) and further to washing with diethyl ether/hexane to obtain 4-bromomethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine (286 mg) as a white powder.

reactant | 4-hydroxymethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine | 320 mg | OCC=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C18H18O2
reactant | triphenylphosphine | 378 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 597 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 157 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 249 mg | C(Br)(Br)(Br)Br | CBr4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-bromomethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine | 286 mg | BrCC=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C18H17BrO
